US05104988
Production of 6-Phenyl-4'-benzyloxy-2,2':6',2"-terpyridine
Sodium hydride (60% content, oil dispersion, 0.8 g) was added to a mixture of 6-phenyl-4'-methanesulfonyl-2,2':6',2"-terpyridine (4.67 g, 0.015 mol), benzyl alcohol (1.08 g, 0.010 mol) and N,N-dimethylformamide (0.1 liter) over a period of 10 minutes. The reaction solution was refluxed for 6 hours and then processed in the same manner as in Example 1, whereby 2.88 g of the above-entitled product (T-21) was obtained. Yield: 85%. m.p. 182° C.

reactant | Sodium hydride | 0.8 g | [H-].[Na+]
reactant | 6-phenyl-4'-methanesulfonyl-2,2':6',2"-terpyridine | 0.015 mol, 4.67 g | C1(=CC=CC=C1)C1=CC=CC(=N1)C1=NC(=CC(=C1)S(=O)(=O)C)C1=NC=CC=C1 | C22H17N3O2S
reactant | benzyl alcohol | 0.010 mol, 1.08 g | C(C1=CC=CC=C1)O | C7H8O
solvent | N,N-dimethylformamide | 0.1 liter | CN(C=O)C | C3H7NO
product | 6-Phenyl-4'-benzyloxy-2,2':6',2"-terpyridine | 2.88 g, Yield: 85% | C1(=CC=CC=C1)C1=CC=CC(=N1)C1=NC(=CC(=C1)OCC1=CC=CC=C1)C1=NC=CC=C1 | C28H21N3O
